US07902226B2
5-amino-7-[3-(R)-(1-aminocyclopropyl)pyrrolidin-1-yl]-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid
After adding 3-(R)-[1-[N-(tert-butoxycarbonyl)amino]cyclopropyl]pyrrolidine (643 mg, 2.55 mmol) and triethylamine (0.5 ml) to dried dimethyl sulfoxide (1 ml, 5-amino-7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid (250 mg, 850 μmol) was added thereto and stirred at 70° C. for 37 hours while sealing under a nitrogen atmosphere. After letting the reaction solution cool, the reaction solution was concentrated under a reduced pressure, the residue obtained was dissolved in ethyl acetate (100 ml), and washed with a 10% aqueous citric acid solution (50 ml) and saturated saline solution (30 ml). The organic layer was then dried over anhydrous sodium sulfate, and after filtering, the filtrate was concentrated under a reduced pressure. The residue obtained was then applied to a short silica gel chromatography and crude crystals were obtained from a chloroform:methanol=30:1 eluate. After adding dropwise concentrated hydrochloric acid (5 ml) to the crude crystals while cooling with ice, it was stirred at the same temperature for 30 minutes. 1 mol/l Hydrochloric acid (10 ml) was then added to the reaction solution, and after washing the yellow acidic aqueous solution with chloroform (50 ml×2), the pH was adjusted to 12.0 with an aqueous sodium hydroxide solution. After adjusting the pH of the basic aqueous solution to 7.4 with 1 mol/l hydrochloric acid, extraction with chloroform (100 ml×3) was performed. The organic layers were then combined and dried over anhydrous sodium sulfate, and then the solvent was evapolated under a reduced pressure. The residue thus obtained was purified by recrystallization from ethanol and then dried under a reduced pressure. 32 mg (9%) of the title compound was thereby obtained in the form of yellow crystals.

reactant | 3-(R)-[1-[N-(tert-butoxycarbonyl)amino]cyclopropyl]pyrrolidine | 2.55 mmol, 643 mg | C(C)(C)(C)OC(=O)NC1(CC1)[C@H]1CNCC1 | C12H22N2O2
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | 5-amino-7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 850 μmol, 250 mg | NC1=C2C(C(=CN(C2=C(C(=C1)F)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H12F2N2O3
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | Hydrochloric acid | 1 mol/l, 10 ml | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 5-amino-7-[3-(R)-(1-aminocyclopropyl)pyrrolidin-1-yl]-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 32 mg, 9% | NC1=C2C(C(=CN(C2=C(C(=C1)N1C[C@@H](CC1)C1(CC1)N)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C21H25FN4O3
